US09422292B2
A mixture of 4-(8-bromo-1,4-dimethyl-4H-benzo[b][1,2,4]triazolo[4,3-d][1,4]diazepin-6(5H)-yl)benzonitrile (244 mg, 0.62 mmol), 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-amine (274 mg, 1.24 mmol), tetrakis(triphenylphosphine)palladium(0) (50 mg) and potassium carbonate (350 mg, 2.53 mmol) in a mixed solution of tetrahydrofuran (10 mL) and water (1 mL) was heated at 100° C. for 30 minutes under microwave (pressure: 17.2 bar, equipment power: 150 W). The reaction mixture was diluted with ethyl acetate (20 mL) and washed with brine (10 mL*3). The organic phase was separated, dried over anhydrous sodium sulfate and then filtered. The filtrate was concentrated to give a crude product, which was purified by column chromatography (silica gel, dichloromethane/methanol=12:1) to afford 4-(8-(6-aminopyridin-3-yl)-1,4-dimethyl-4H-benzo[b][1,2,4]triazolo[4,3-d][1,4]diazepin-6(5H)-yl)benzonitrile as a light yellow solid (150 mg, 59.4%). LRMS (M+H)+: calcd 407.19. found 407.

reactant | 4-(8-bromo-1,4-dimethyl-4H-benzo[b][1,2,4]triazolo[4,3-d][1,4]diazepin-6(5H)-yl)benzonitrile | 0.62 mmol, 244 mg | BrC=1C=CC2=C(N(CC(C=3N2C(=NN3)C)C)C3=CC=C(C#N)C=C3)C1 | C19H16BrN5
reactant | 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-amine | 1.24 mmol, 274 mg | CC1(OB(OC1(C)C)C=1C=CC(=NC1)N)C | C11H17BN2O2
reactant | potassium carbonate | 2.53 mmol, 350 mg | C([O-])([O-])=O.[K+].[K+]
reactant | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 50 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 1 mL | O | H2O
product | 4-(8-(6-aminopyridin-3-yl)-1,4-dimethyl-4H-benzo[b][1,2,4]triazolo[4,3-d][1,4]diazepin-6(5H)-yl)benzonitrile | 150 mg, 59.4% | NC1=CC=C(C=N1)C=1C=CC2=C(N(CC(C=3N2C(=NN3)C)C)C3=CC=C(C#N)C=C3)C1 | C24H21N7
